US05541195
(2R*,4S*)-2-Benzyl-1-(2,3-diphenylpropionyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine
300 mg (0.702 mmol) of (2R*,4S*)-2-benzyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine are reacted in analogy to Example 4 with 190 mg (0.842 mmol) of (R,S)-2,3-diphenylpropionic acid, 214 mg (0.842 mmol) of bis-(2-oxo-3-oxazolidinyl)phosphinic chloride and 216 μl (1.54 mmol) of triethylamine. The title compound is obtained as white foam. TLC: methylene chloride/methanol/conc. ammonia (700:50:1) Rf =0.74, FD-MS: M+ =635.

reactant | (2R*,4S*)-2-benzyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | 0.702 mmol, 300 mg | C(C1=CC=CC=C1)[C@H]1NCC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12 | C24H24F3N3O
reactant | bis-(2-oxo-3-oxazolidinyl)phosphinic chloride | 0.842 mmol, 214 mg | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
reactant | triethylamine | 1.54 mmol, 216 μl | C(C)N(CC)CC | C6H15N
product | (2R*,4S*)-2-Benzyl-1-(2,3-diphenylpropionyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | C(C1=CC=CC=C1)[C@H]1N(CC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12)C(C(CC1=CC=CC=C1)C1=CC=CC=C1)=O | C39H36F3N3O2
